US08871756B2
(3R)-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidin-3-ol
The title compound was prepared in analogy to Example 15-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (3R)-pyrrolidin-3-ol. MS obsd. (ESI+) [(M+H)+] 424, 1H NMR (400 MHz, CD3OD) δ ppm 7.88 (dd, J=7.83, 1.01 Hz, 1 H), 7.79-7.69 (m, 2 H), 7.52 (td, J=7.52, 1.14 Hz, 1 H), 7.44 (d, J=8.59 Hz, 1 H), 7.33-7.27 (m, 1 H), 7.23 (dd, J=8.59, 1.77 Hz, 1 H), 6.02 (s, 1 H), 5.04 (s, 2 H), 4.55-4.42 (m, 2 H), 3.89-3.76 (m, 2 H), 3.59-3.42 (m, 4 H), 3.37 (s, 2 H), 2.35 (s, 3 H), 2.16-1.97 (m, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (3R)-pyrrolidin-3-ol | N1C[C@@H](CC1)O | C4H9NO
product | (3R)-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyrrolidin-3-ol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2C[C@@H](CC2)O)C)=O | C23H25N3O3S
